US05071863
5-Fluoro-4-methyl-6-nitro-2-benzoxazolone
5-Fluoro-4-methyl-2-benzoxazolone (Preparation A, 2.01 g, 12 mmoles) was treated with concentrated nitric acid (24 ml) at room temperature under stirring. The mixture was heated to 50° C. and stirring continued for 20 minutes. Ice and water were added to the mixture and the resulting solids were collected, and washed with water and then with ethanol. The crude product was dried under reduced pressure and recrystallized from ethanol to give 1.84 g (72%) of the title compound: m.p. 194°-196° C.

reactant | 5-Fluoro-4-methyl-2-benzoxazolone | 12 mmoles, 2.01 g | FC=1C=CC2=C(NC(O2)=O)C1C | C8H6FNO2
reactant | nitric acid | 24 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | 5-Fluoro-4-methyl-6-nitro-2-benzoxazolone | 1.84 g, 72% | FC=1C(=CC2=C(NC(O2)=O)C1C)[N+](=O)[O-] | C8H5FN2O4
